US05952362
N-[3-chloro-5-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-methylphenyl]methanesulfonamide hydrochloride (mp 256.2-256.7° C.) was prepared from N-(3-chloro-5-cyanomethyl-2-methylphenyl) methanesulfonamide in a manner similar to that described in Example 1 for the preparation of N-[3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)phenyl]methanesulfonamide hydrochloride from (3-aminophenoxy)acetonitrile.

reactant | N-(3-chloro-5-cyanomethyl-2-methylphenyl) methanesulfonamide | ClC=1C(=C(C=C(C1)CC#N)NS(=O)(=O)C)C | C10H11ClN2O2S
reactant | N-[3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)phenyl]methanesulfonamide hydrochloride | Cl.N1C(=NCC1)COC=1C=C(C=CC1)NS(=O)(=O)C
reactant | (3-aminophenoxy)acetonitrile | NC=1C=C(OCC#N)C=CC1 | C8H8N2O
product | N-[3-chloro-5-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-methylphenyl]methanesulfonamide hydrochloride | Cl.ClC=1C(=C(C=C(C1)CC=1NCCN1)NS(=O)(=O)C)C | InChI=1S/C12H16ClN3O2S.ClH/c1-8-10(13)5-9(7-12-14-3-4-15-12)6-11(8)16-19(2,17)18;/h5-6,16H,3-4,7H2,1-2H3,(H,14,15);1H
